US08022062B2
9-Fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve 9-fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3-dihydro-1H-benzo[d]azepine (9.4 g, 32.4 mmol) with 10% Pd/C (dry basis, Degussa type, 1.4 g, 0.65 mmol) in EtOAc/ethanol (1:1, 200 mL) and stir at ambient temperature under a balloon of hydrogen for 4.5 h. Filter the mixture through a pad of silica gel and evaporate the filtrate to obtain the desired intermediate (8.6 g, 91%). MS (ES+) m/z: 292 (M+H)+.

reactant | 9-fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3-dihydro-1H-benzo[d]azepine | 32.4 mmol, 9.4 g | FC1=CC=C(C2=C1CCN(C=C2)C(C(F)(F)F)=O)OC | C13H11F4NO2
reactant | hydrogen | [H][H] | H2
solvent | EtOAc ethanol | 200 mL | CCOC(=O)C.C(C)O
catalyst | Pd/C | 0.65 mmol, 1.4 g | [Pd] | Pd
product | 9-Fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 8.6 g, 91% | FC1=CC=C(C2=C1CCN(CC2)C(C(F)(F)F)=O)OC | C13H13F4NO2
